US05554607
3-(5-Chloro-2-methylphenyl)-1-phenyl-2-thioxo-imidazolidin-4-one
A mixture of 2-[3-(5-chloro-2-methylphenyl)-1-phenyl-thioureido]-acetic acid ethyl ester (9.5 g), triethyl amine (1 mL), and ethanol (150 mL) was heated at reflux for 2 hours. The mixture was concentrated to one-half volume and cooled to ambient temperature. The solid was collected and air dried to give the title compound (6.1 g) as an off-white solid, m.p. 168°-170° C. Anal. Calcd. for. C16H13Cl N2O S: C, 60.66; H, 4.14; N, 8.84. Found: C, 60.81; H, 4.16; N, 8.81. Mass spectrum (EI, M.+) m/z 316/318.

reactant | 2-[3-(5-chloro-2-methylphenyl)-1-phenyl-thioureido]-acetic acid ethyl ester | 9.5 g | C(C)OC(CN(C(=S)NC1=C(C=CC(=C1)Cl)C)C1=CC=CC=C1)=O | C18H19ClN2O2S
reactant | triethyl amine | 1 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | 3-(5-Chloro-2-methylphenyl)-1-phenyl-2-thioxo-imidazolidin-4-one | 6.1 g | ClC=1C=CC(=C(C1)N1C(N(CC1=O)C1=CC=CC=C1)=S)C | C16H13ClN2OS
